US06225306B1
(2S, 4R)-4-Hydroxy-1-(2-nitrophenyl) Proline
The same procedures used in Reference Example 1 were repeated except for using trans-4-hydroxy-L-proline and 1-fluoro-2-nitrobenzene to give the title compound. Yield 71.1%.

reactant | trans-4-hydroxy-L-proline | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | 1-fluoro-2-nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | (2S, 4R)-4-Hydroxy-1-(2-nitrophenyl) Proline | Yield 71.1% | O[C@@H]1C[C@H](N(C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O | C11H12N2O5
